US05730901
Preparation of 4'-(trans-4-n-propyl-4-silacyclohexyl)-4-(1,2-dichlorovinyl)biphenyl
The general procedure of Example 35 was repeated using 4-propyl-4-phenyl-4-silacyclohexanone instead of 4-pentyl-4-phenyl-4-silacyclohexanone, and 4-bromo-2,6-difluoro-1-(1,2-dichlorovinyl)benzene instead of 4-bromo-2,6-difluoro-1-(2,2-difluorovinyloxy)benzene, thereby obtaining the intended compound.

reactant | 4-propyl-4-phenyl-4-silacyclohexanone | C(CC)[Si]1(CCC(CC1)=O)C1=CC=CC=C1 | C14H20OSi
reactant | 4-bromo-2,6-difluoro-1-(1,2-dichlorovinyl)benzene | BrC1=CC(=C(C(=C1)F)C(=CCl)Cl)F | C8H3BrCl2F2
product | 4'-(trans-4-n-propyl-4-silacyclohexyl)-4-(1,2-dichlorovinyl)biphenyl | C(CC)[Si@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C(=CCl)Cl | C22H26Cl2Si
